US05872137
Then, 7.0 g of 4-bromo-2-ethyl-6-methyl-1-[3-(4-trifluoromethoxyphenoxy)propyloxy]benzene was dissolved in 200 ml of tetrahydrofuran, followed by stirring at -70° C., to which 10.0 ml of n-butyl lithium solution (in hexane, 1.58 mol/liter) was added dropwise, followed by further stirring at -70° C. for 2 hours. To this reaction mixture was added dropwise a solution of 2.4 g of trimethoxy borane dissolved in 60 ml of tetrahydrofuran. The reaction mixture was stirred for 1 hour, while warming to room temperature, and 13 ml of 10% aqueous hydrochloric acid solution was added in small portions, followed by stirring at room temperature for 20 minutes. The tetrahydrofuran layer was washed with water, dried with anhydrous magnesium sulfate, and concentrated, to which 50 ml of toluene was added, and the mixture was heated at 70° C. under stirring, to which 6 ml of 30% aqueous hydrogen peroxide solution was added dropwise. The mixture was heated under reflux for 1 hours, and washed once with water, and twice with 10% aqueous ammonium ferrous sulfate solution and once with water. The toluene layer was dried with anhydrous magnesium sulfate, and concentrated to obtain a crude product. The crude product was subjected to silica gel chromatography, which afforded 4.3 g of 3,5-diethyl-4-[3-(4-trifluoromethoxyphenoxy)propyloxy]phenol (50% yield), nD25.4 1.5060.

reactant | 4-bromo-2-ethyl-6-methyl-1-[3-(4-trifluoromethoxyphenoxy)propyloxy]benzene | 7.0 g | BrC1=CC(=C(C(=C1)C)OCCCOC1=CC=C(C=C1)OC(F)(F)F)CC | C19H20BrF3O3
reactant | n-butyl lithium | 1.58 mol/liter, 10.0 ml | C(CCC)[Li]
reactant | trimethoxy borane | 2.4 g | COB(OC)OC | C3H9BO3
reactant | hydrochloric acid | 13 ml | Cl | ClH
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
product | 3,5-diethyl-4-[3-(4-trifluoromethoxyphenoxy)propyloxy]phenol | 4.3 g, 50% yield | C(C)C=1C=C(C=C(C1OCCCOC1=CC=C(C=C1)OC(F)(F)F)CC)O | C20H23F3O4
